US07795236B2
8-(3′-Carbamoylmethoxybiphenyl-4-ylmethylamino)adenosine
8-(3′-Methoxycarbonylmethoxybiphenyl-4-ylmethyl-amino)adenosine (0.080 g) was dissolved in 2.0 M ammonia methanol solution (3.0 mL), and the resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure to give the title compound (0.080 g).

reactant | 8-(3′-Methoxycarbonylmethoxybiphenyl-4-ylmethyl-amino)adenosine | 0.080 g | COC(=O)COC=1C=C(C=CC1)C1=CC=C(C=C1)CNC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C26H28N6O7
reactant | ammonia methanol | 2.0 M, 3.0 mL | CO.N
product | 8-(3′-Carbamoylmethoxybiphenyl-4-ylmethylamino)adenosine | 0.080 g | C(N)(=O)COC=1C=C(C=CC1)C1=CC=C(C=C1)CNC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C25H27N7O6
